US05278180
201 g of p-anisidine were added to a suspension of 300 g of 4-dimethylamino-benzoic acid chloride in 1200 ml of pyridine and the mixture was stirred until dissolution. Then, the mixture was refluxed for 3 hours and after cooling to ambient temperature, the reaction medium was poured into 6 liters of iced water. The precipitate was separated and washed with water, then dried under reduced pressure to obtain 423 g of 4-dimethylamino-4-methoxybenzanilide melting at 173° C.

reactant | p-anisidine | 201 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | 4-dimethylamino-benzoic acid chloride | 300 g | CN(C1=CC=C(C(=O)Cl)C=C1)C | C9H10ClNO
reactant | water | 6 liters | O | H2O
reactant | pyridine | 1200 ml | N1=CC=CC=C1 | C5H5N
product | 4-dimethylamino-4-methoxybenzanilide | 423 g | CN(C1(CC=C(C(=O)NC2=CC=CC=C2)C=C1)OC)C | C16H20N2O2
